US04829067
A mixture of 1.16 g of 2-phenylbenzofuran-7-carboxylic acid, 1.0 g of 2-(diisopropylamino)ethyl chloride hydrochloride, 0.66 g of potassium hydroxide and 20 ml of isopropanol is refluxed for 1 hour. After cooling, ethyl acetate and water are added to the reaction mixture. The organic layer is collected, washed with a saturated sodium chloride solution and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=20:1) to give 1.51 g 2-(diisopropylamino)ethyl 2-phenylbenzofuran-7-carboxylate as colorless oil.

reactant | 2-phenylbenzofuran-7-carboxylic acid | 1.16 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)O | C15H10O3
reactant | 2-(diisopropylamino)ethyl chloride hydrochloride | 1.0 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | potassium hydroxide | 0.66 g | [OH-].[K+]
reactant | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(diisopropylamino)ethyl 2-phenylbenzofuran-7-carboxylate | 1.51 g | C1(=CC=CC=C1)C=1OC2=C(C1)C=CC=C2C(=O)OCCN(C(C)C)C(C)C | C23H27NO3
